US08445510B2
cis-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanol
A mixture of 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (200.0 mg, 0.5213 mmol), 1-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (328.8 mg, 0.7820 mmol), Pd(PPh3)4 (30.12 mg, 0.02606 mmol), K2CO3 (216.1 mg, 1.564 mmol) and 4:1 dioxane:H2O (10 mL, 100 mmol) was heated to 95° C. for 2 h. The solution was cooled to rt, and 12 M of HCl in H2O (0.4344 mL, 5.213 mmol) was added. The material was concentrated in vacuo, and extracted with DCM and sat. NaHCO3. The organic layer was dry-loaded onto silica gel and purified via column chromatography, eluting with 2-4% (7N NH3 in MeOH)/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a light yellow solid. 1H NMR (400 MHz, CD3OD): δ=1.69-1.80 (m, 4H), 1.82 (d, J=7.3 Hz, 3H), 1.94-2.05 (m, 2H), 2.25 (s, 3H), 2.32-2.46 (m, 2H), 3.67 (br. s., 3H), 4.02-4.08 (m, 1H), 4.17-4.27 (m, 1H), 5.08-5.17 (m, 1H), 6.91 (dd, J=9.1, 4.3 Hz, 1H), 7.10 (t, J=8.8 Hz, 1H), 7.36 (d, J=1.3 Hz, 1H), 7.38-7.45 (m, 1H), 7.47 (s, 1H), 8.12 (d, J=2.0 Hz, 1H). MS (ES+): m/z=483.16/485.18 (100/50) [MH+]. HPLC: tR=1.46 min (polar—3 min, UPLC-ACQUITY).

reactant | 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 0.5213 mmol, 200.0 mg | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2OC)F)Cl | C16H13BrClFN2O
reactant | 1-(cis-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.7820 mmol, 328.8 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1CC[C@H](CC1)N1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C | C22H41BN2O3Si
reactant | K2CO3 | 1.564 mmol, 216.1 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 100 mmol, 10 mL | O | H2O
reactant | HCl | 12 M | Cl | ClH
reactant | H2O | 5.213 mmol, 0.4344 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.02606 mmol, 30.12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | cis-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanol | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@H]2CC[C@H](CC2)O | C26H28ClFN4O2
